US07825264B2
5.0 g (32 mmol) of 8-quinolinecarbaldehyde were added to a solution of 5.6 g (48 mmol) of tert-butyl carbamate and 8.5 g (48 mmol) of sodium p-toluenesulfonate in 112 ml of acetonitrile under argon. While cooling to 0-10° C., 6.9 g (64 mmol) of chlorotrimethylsilane were added dropwise, and the mixture was left to stir at room temperature overnight. After addition of 130 ml of water, the precipitated product was filtered off with suction and dried in vacuo at 50° C. 11.4 g of tert-butyl [quinolin-8-yl(toluene-4-sulfonyl)methyl]carbamate were obtained.

reactant | 8-quinolinecarbaldehyde | 32 mmol, 5.0 g | N1=CC=CC2=CC=CC(=C12)C=O | C10H7NO
reactant | tert-butyl carbamate | 48 mmol, 5.6 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodium p-toluenesulfonate | 48 mmol, 8.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[Na+]
reactant | chlorotrimethylsilane | 64 mmol, 6.9 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 112 ml | C(C)#N | C2H3N
solvent | water | 130 ml | O | H2O
product | tert-butyl [quinolin-8-yl(toluene-4-sulfonyl)methyl]carbamate | 11.4 g | N1=CC=CC2=CC=CC(=C12)C(S(=O)(=O)C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O | C22H24N2O4S
